US07238716B2
To a mixture of [2-[-3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]methanol (540 mg), triethylamine (0.350 mL) and ethyl acetate (50 mL) was dropwise added methanesulfonyl chloride (0.145 mL) under ice-cooling and the mixture was stirred at room temperature for 0.5 hr. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give an oil. To a mixture of this oil and dimethyl sulfoxide (10 mL) was added a solution of sodium cyanide (160 mg) in water (1 mL) at room temperature and the mixture was stirred at room temperature for 2 hrs. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained crystals were recrystallized from ethyl acetate-hexane to give crystals (438 mg, 79%) of 2-[2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile. melting point: 108-109° C.

reactant | [2-[-3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]methanol | 540 mg | COC=1C=C(COC2=NC=CC=C2CO)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H24N2O5
reactant | triethylamine | 0.350 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.145 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium cyanide | 160 mg | [C-]#N.[Na+]
solvent | water | 1 mL | O | H2O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-[3-methoxy-4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 438 mg, 79% | COC=1C=C(COC2=NC=CC=C2CC#N)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H23N3O4
